US09278981B2
(S)—N-(4-(Chlorodifluoromethoxy)phenyl)-6-(3-hydroxypyrrolidin-1-yl)-5-(pyrimidin-5-yl)nicotinamide
(S)-5-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-6-(3-hydroxypyrrolidin-1-yl)nicotinamide (Stage 169.1, (116 mg, 0.25 mmol) and pyrimidin-5-ylboronic acid (62 mg, 0.5 mmol) were dissolved in DME (1 mL). A solution of 2 M Na2CO3 (0.375 mL, 0.75 mmol) was added, the mixture was flushed with argon, PdCl2(dppf) (9 mg, 0.013 mmol) was added and the RM subjected to MW irradiation at 100° C. for 2 h. After cooling to RT, the RM was dissolved in EtOAc and washed with brine. The organic phase was dried over Na2SO4 and evaporated under reduced pressure to give a residue that was purified flash chromatography (RediSep® Silica gel column, EtOAc/EtOAc-MeOH (98:2)), from 50% to 100% EtOAc-MeOH (98:2)) and treated with Si-Thiol (80 mg) in MeOH to afford the title compound as a white crystalline powder. HPLC (Condition 4) tR=4.71 min, HPLC Chiral (CHIRALPAK® AD-H, 250×4.6 mm, eluent: EtOH/MeOH (50:50), 0.5 mL/min, UV 210 nm) tR=60.52 min, UPLC-MS (Condition 3) tR=0.95 min, m/z=462.2 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 1.68-1.78 (m, 1H) 1.80-1.90 (m, 1H) 2.82-2.92 (m, 1H) 3.15-3.26 (m, 2H) 3.33-3.41 (m, 1H) 4.15-4.24 (m, 1H) 4.86 (d, J=3.52 Hz, 1H) 7.33 (d, J=8.21 Hz, 2H) 7.84 (d, J=9.38 Hz, 2H) 8.03-8.13 (m, 1H) 8.78 (m, J=2.35, 0.78 Hz, 1H) 8.87 (s, 2H) 9.18 (d, J=0.78 Hz, 1H) 10.16 (s, 1H).

reactant | (S)-5-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-6-(3-hydroxypyrrolidin-1-yl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C1)N1C[C@H](CC1)O | C17H15BrClF2N3O3
reactant | pyrimidin-5-ylboronic acid | 0.5 mmol, 62 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 0.75 mmol, 2 M, 0.375 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.013 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)—N-(4-(Chlorodifluoromethoxy)phenyl)-6-(3-hydroxypyrrolidin-1-yl)-5-(pyrimidin-5-yl)nicotinamide | ClC(OC1=CC=C(C=C1)NC(C1=CN=C(C(=C1)C=1C=NC=NC1)N1C[C@H](CC1)O)=O)(F)F | C21H18ClF2N5O3
